US08492371B2
(E)-trimethyl(2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)but-3-en-2-yloxy)silane
To a solution of trimethyl(2-methylbut-3-yn-2-yloxy)silane (1.5 g, 9.60 mmol) in tetrahydrofuran (15 mL) was added 4,4,5,5-tetramethyl-1,3,2-dioxaborolane (2.79 mL, 19.19 mmol), followed by addition of 9-BBN (9-borabicyclo[3.3.1]nonane) dimer (0.117 g, 0.480 mmol). This mixture was heated at 60° C. for 24 hours. The reaction was cooled and quenched carefully with saturated ammonium chloride solution. The reaction mixture was extracted with ethyl acetate (2×15 mL). The organics were combined, dried, concentrated and the residue was purified by column chromatography using an Analogix® Intelliflash280™ (SiO2, 0-60% ethyl acetate in hexanes) to afford the title compound (600 mg, 22% yield). 1H NMR (300 MHz, DMSO-d6) δ ppm 0.06-0.08 (m, 9H) 1.19 (s, 12H) 1.25 (s, 6H) 5.41 (d, J=17.85 Hz, 1H) 6.53 (d, J=17.85 Hz, 1H); MS (DCI/NH3) m/z 285 (M+H)+.

reactant | trimethyl(2-methylbut-3-yn-2-yloxy)silane | 9.60 mmol, 1.5 g | C[Si](OC(C)(C#C)C)(C)C | C8H16OSi
reactant | 4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 19.19 mmol, 2.79 mL | CC1(OBOC1(C)C)C | C6H13BO2
reactant | 9-BBN | C12CCCC(CCC1)B2 | C8H15B
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (E)-trimethyl(2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)but-3-en-2-yloxy)silane | 600 mg, 22% yield | C[Si](OC(C)(\C=C\B1OC(C(O1)(C)C)(C)C)C)(C)C | C14H29BO3Si
